US05212164
A. (Hydroxymethyl)phosphonic acid, diethyl ester
The procedure of Kluge was followed (Org Syn 1986, Vol. 64, 80-84). The following ingredients were combined: 69 g (0.50 mol) of diethyl phosphite, g (0.50 mol) of paraformaldehyde, and 5.1 g (0.05 mol) of triethylamine. The stirred mixture was immersed in a preheated oil bath at 120° C. and heated for one hour. Upon cooling, the triethylamine was removed on the rotary evaporator at 80° C., and the residue was then Kugelrohr distilled (150°-160° C., 0.10 mm) to provide 57.5 g (68%) of title compound as a colorless liquid.

reactant | diethyl phosphite | 0.50 mol, 69 g | P(OCC)(OCC)[O-]
reactant | paraformaldehyde | 0.50 mol | C=O | CH2O
reactant | triethylamine | 0.05 mol, 5.1 g | C(C)N(CC)CC | C6H15N
product | (Hydroxymethyl)phosphonic acid, diethyl ester | 57.5 g, 68% | OCP(OCC)(OCC)=O | C5H13O4P
